US05827849
c) 2-Hydroxy-3-ethoxycarbonyl-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine
Prepared from 1-benzyl-hexahydro-4-azepinone with ethyl formate and ethyl malonamate in the presence of sodium hydride.

reactant | 1-benzyl-hexahydro-4-azepinone | C(C1=CC=CC=C1)N1CCC(CCC1)=O | C13H17NO
reactant | ethyl formate | C(=O)OCC | C3H6O2
reactant | ethyl malonamate | C(CC(=O)N)(=O)OCC | C5H9NO3
reactant | sodium hydride | [H-].[Na+]
product | 2-Hydroxy-3-ethoxycarbonyl-7-benzyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-d]azepine | OC=1C(=CC2=C(CCN(CC2)CC2=CC=CC=C2)N1)C(=O)OCC | C19H22N2O3
